US05492919
b) 1-[1-Acetylpiperidyl]-3-(1-methyl-1H-indol-3-yl)-1,2,4-triazole
3-(1-Methyl-1H-indol-3-yl)-1,2,4-triazole (0.190 g, 0.960 mmol) was dissolved with stirring in dry THF (5 ml) and was treated with sodium hydride (80%) (0.032 g, 1.05 mmol), followed by 1-(bromoacetyl)piperidine (Bull. Soc, Chim. Fr. 1964, 5, 1063-9) (0.232 g, 1.05 mmol) in dry THF (1 ml). After 4 h, the reaction mixture was evaporated under reduced pressure and partitioned between EtOAc and water. The organic layer was then dried (Na2SO4) and evaporated under reduced pressure to give a yellow oil, which was purified by silica-gel chromatography (EtOAc→EtOAc:MeOH 100:1 as eluant) to give the title compound (D5b) as a white solid (0.080 g, 26%).

reactant | 3-(1-Methyl-1H-indol-3-yl)-1,2,4-triazole | 0.960 mmol, 0.190 g | CN1C=C(C2=CC=CC=C12)C1=NNC=N1 | C11H10N4
reactant | sodium hydride | 1.05 mmol, 0.032 g | [H-].[Na+]
reactant | 1-(bromoacetyl)piperidine | 1.05 mmol, 0.232 g | BrCC(=O)N1CCCCC1 | C7H12BrNO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 1-[1-Acetylpiperidyl]-3-(1-methyl-1H-indol-3-yl)-1,2,4-triazole | 0.080 g, 26% | C(C)(=O)N1C(CCCC1)N1N=C(N=C1)C1=CN(C2=CC=CC=C12)C | C18H21N5O
